US08664220B2
Step 1: 1-(4′-{3-Methyl-4-[3-(methyl-phenyl-amino)-phenylamino]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 68, Step 2, using 1-{4′-[4-(3-bromo-phenylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester and N-methylaniline.

reactant | 1-{4′-[4-(3-bromo-phenylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1=CC(=CC=C1)Br | C28H25BrN2O3
reactant | N-methylaniline | CNC1=CC=CC=C1 | C7H9N
product | 1-(4′-{3-Methyl-4-[3-(methyl-phenyl-amino)-phenylamino]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1=CC(=CC=C1)N(C1=CC=CC=C1)C | C35H33N3O3
